US06022969
Sodium carbonate (1.33 g, 12.4 mmol.) was added to a solution of trans-4-(aminomethyl)cyclohexanemethanol hydrochloride (1.5 g, 8.3 mmol.) in 1:1 dioxane:water (40 mL). Di-tert-butyl dicarbonate (2.0 g, 9.13 mmol.) was added to the reaction mixture at 0° C. The reaction mixture was stirred at room temperature for 5 hours then partitioned between 10% methanol in dichloromethane and water. The organic layer was dried over anhydrous sodium sulfate and concentrated. N-tert-Butoxycarbonyl-trans-4-(aminomethyl)cyclohexanemethanol (1.97 g, 98% yield)was obtained as a white solid.

reactant | Sodium carbonate | 12.4 mmol, 1.33 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | trans-4-(aminomethyl)cyclohexanemethanol hydrochloride | 8.3 mmol, 1.5 g | Cl.NC[C@@H]1CC[C@H](CC1)CO
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | Di-tert-butyl dicarbonate | 9.13 mmol, 2.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 40 mL | O | H2O
product | N-tert-Butoxycarbonyl-trans-4-(aminomethyl)cyclohexanemethanol | 1.97 g, 98% yield | C(C)(C)(C)OC(=O)NC[C@@H]1CC[C@H](CC1)CO | C13H25NO3
